US06353018B1
3-{4-[3-(6H-Dibenzo[b,e]oxepin-11-ylidene)-propoxy]-phenyl}-2-ethoxy-propionic acid
Sodium hydroxide (1M, 2.5 ml, 2.5 mmol) was added to a solution of a 4:1 E/Z double-bond isomer mixture of ethyl 3-{4-[3-(6H-dibenzo[b,e]oxepin-11-ylidene)-propoxy]-phenyl}2-ethoxy-propionate (0.24 g, 0.51 mmol) in ethanol (5 ml) and the mixture stirred at room temperature for 78 h. The resulting mixture was partitioned between 1N hydrochloric acid (20 ml) and dichloromethane (20 ml), and the organic phase collected. The aqueous phase was further extracted with dichloromethane (3×20 ml) and the combined organics washed with brine, dried (Na2SO4) and evaporated to give a pale yellow gum. This was then purified by column chromatography on silica gel (3% methanol in dichloromethane eluent) to give the title compound as an inseparable 4:1 mixture of E and Z double-bond isomers, as a pale yellow glass; 0.186 g (80%).

reactant | Sodium hydroxide | 2.5 mmol, 1M, 2.5 ml | [OH-].[Na+]
reactant | ethyl 3-{4-[3-(6H-dibenzo[b,e]oxepin-11-ylidene)-propoxy]-phenyl}2-ethoxy-propionate | 0.51 mmol, 0.24 g | C1=CC=CC=2OCC3=C(C(C21)=CCCOC2=CC=C(C=C2)CC(C(=O)OCC)OCC)C=CC=C3 | C30H32O5
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-{4-[3-(6H-Dibenzo[b,e]oxepin-11-ylidene)-propoxy]-phenyl}-2-ethoxy-propionic acid | C1=CC=CC=2OCC3=C(C(C21)=CCCOC2=CC=C(C=C2)CC(C(=O)O)OCC)C=CC=C3 | C28H28O5
